US05663053
2-(7-Bromoheptyl)-4,5-diphenyloxazole (13.8 g) in dimethylsulphoxide (80 ml) was added over 45 minutes to a mixture of sodium cyanide (1.87 g) in dimethylsulphoxide (80 ml). The reaction was stirred at 50° C. for 2 h, cooled and poured into water (500 ml ). The aqueous was extracted with diethyl ether (4×250 ml). The ether extracts were combined, washed with water (250 ml), dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo. Column chromatography on silica gel eluted with a hexane: dichloromethane gradient gave 2-(7-cyanoheptyl)-4,5-diphenyloxazole (4.89 g, 41%) as an oil. Found: C, 80.20; H, 7.02; N, 8.13%; C23H24N2O requires: C, 80.31; H, 7.18; n, 8.16%;

reactant | 2-(7-Bromoheptyl)-4,5-diphenyloxazole | 13.8 g | BrCCCCCCCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H24BrNO
reactant | sodium cyanide | 1.87 g | [C-]#N.[Na+]
reactant | water | 500 ml | O | H2O
solvent | dimethylsulphoxide | 80 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 2-(7-cyanoheptyl)-4,5-diphenyloxazole | 4.89 g, 41% | C(#N)CCCCCCCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H24N2O
